US08461175B2
5-(2,6-difluorophenyl)-3-[(1-sulphamoylpiperidin-4-yl)amino]-2H-pyrazolo[4,3-c]isoquinoline-7-carboxamide
54 mg of 4-{[7-cyano-5-(2,6-difluorophenyl)-2-{[2-(trimethylsilyl)ethoxy]methyl}-2H-pyrazolo[4,3-c]isoquinolin-3-yl]amino}piperidine-1-sulphonamide are introduced into 0.5 ml of toluene. After cooling to 0° C. using an ice bath, 90 μl of 95% sulphuric acid are added and the mixture is stirred at RT for 24 h. It is cooled to 0° C. and neutralized with 9 ml of 7.5M aqueous ammonia solution. It is extracted with ethyl acetate, dried over MgSO4, filtered and concentrated under RP. The product is purified by flash chromatography on silica gel (15-40 μm), eluting with a DCM/methanol mixture (95/05 by volume). This gives 7 mg of 5-(2,6-difluorophenyl)-3-[(1-sulphamoylpiperidin-4-yl)amino]-2H-pyrazolo[4,3-c]isoquinoline-7-carboxamide (yellow solid). 1H NMR: 1.67 (m, 2 H) 2.11 (m, 2 H) 2.67 (m, 2 H) 3.47 (m, 2 H) 3.71 (m, 1 H) 6.01 (d, J=8.2 Hz, 1 H) 6.70 (broad s, 2 H) 7.33 (t, J=7.7 Hz, 2 H) 7.55 (broad s, 1 H) 7.68 (m, 1 H) 8.17 (broad s, 1 H) 8.22 (broad s, 1 H) 8.35 (broad d, J=8.5 Hz, 1 H) 8.45 (d, J=8.5 Hz, 1 H) 12.84 (s, 1 H).

reactant | 4-{[7-cyano-5-(2,6-difluorophenyl)-2-{[2-(trimethylsilyl)ethoxy]methyl}-2H-pyrazolo[4,3-c]isoquinolin-3-yl]amino}piperidine-1-sulphonamide | 54 mg | C(#N)C=1C=CC=2C=3C(N=C(C2C1)C1=C(C=CC=C1F)F)=C(N(N3)COCC[Si](C)(C)C)NC3CCN(CC3)S(=O)(=O)N | C28H33F2N7O3SSi
reactant | sulphuric acid | 90 μl | S(O)(O)(=O)=O | H2O4S
reactant | ammonia | 7.5M, 9 ml | N | H3N
solvent | toluene | 0.5 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(2,6-difluorophenyl)-3-[(1-sulphamoylpiperidin-4-yl)amino]-2H-pyrazolo[4,3-c]isoquinoline-7-carboxamide | FC1=C(C(=CC=C1)F)C1=NC=2C(C=3C=CC(=CC13)C(=O)N)=NNC2NC2CCN(CC2)S(N)(=O)=O | C22H21F2N7O3S
